US08912186B2
To a solution of commercial 4-chloro-2-methylbenzaldehyde (5.16 g) and ethyl acetoacetate (8.69 g) in ethanol (10 ml) piperidine (1 ml) was added with stirring at rt. The mixture was kept at rt for 4 d. The precipitate was collected by suction filtration, washed with ethanol, and dried in vacuo to give 4.5 g of a light yellow solid (the bis-adduct of acetoacetate to the benzaldehyde). The powdered solid was added in portions to 40% NaOH (50 g) with stirring. The resulting yellow slurry was stirred at reflux for 2 h. After cooling in an ice bath the mixture was acidified by portionwise addition of conc. HCl (30 ml) to give a yellow resinous precipitate. The aqueous layer was extracted with ethyl acetate, the organic layer dried (sodium sulphate), and filtered. After evaporation of the solvent a crude was obtained which was recrystallised from benzene to afford 3-(4-chloro-2-methylphenyl)glutaric acid (1.43 g). The suspension of finely divided 3-(4-chloro-2-methylphenyl)glutaric acid in acetyl chloride (4 ml) was heated to reflux with stirring for 1 h. Further acetyl chloride (15 ml) was added and reflux continued for another hour. Then the excess of acetyl chloride is removed by distillation, petrol ether (55 ml) is added to the residue, and the solution is kept in the refrigerator. The precipitate is isolated by suction filtration, washed with petrol ether, and dried in vacuo to give 3-(4-chloro-2-methylphenyl)glutaric anhydride (0.9 g) as colourless solid.

reactant | 3-(4-chloro-2-methylphenyl)glutaric acid | ClC1=CC(=C(C=C1)C(CC(=O)O)CC(=O)O)C | C12H13ClO4
solvent | acetyl chloride | 4 ml | C(C)(=O)Cl | C2H3ClO
solvent | acetyl chloride | 15 ml | C(C)(=O)Cl | C2H3ClO
product | 3-(4-chloro-2-methylphenyl)glutaric anhydride | 0.9 g | ClC1=CC(=C(C=C1)C1CC(=O)OC(C1)=O)C | C12H11ClO3
